US09260416B2
Step 5: [4-(2-Oxo-propylsulfanyl)-pyrazol-1-yl]acetic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 3, using the following starting materials: (4-mercapto-pyrazol-1-yl)-acetic acid ethyl ester and chloroacetone.

reactant | (4-mercapto-pyrazol-1-yl)-acetic acid ethyl ester | C(C)OC(CN1N=CC(=C1)S)=O | C7H10N2O2S
reactant | chloroacetone | ClCC(C)=O | C3H5ClO
product | [4-(2-Oxo-propylsulfanyl)-pyrazol-1-yl]acetic acid ethyl ester | C(C)OC(CN1N=CC(=C1)SCC(C)=O)=O | C10H14N2O3S
